US04439514
2,4-Hexadiyn-1,6-diol-bis-(2,4-dinitrophenyl) ether
To a solution of 2,4-hexadiyn-1,6-diol (1.1 g) in acetone (15 ml), K2CO3 (0.5 g) was added. To the stirred solution at room temperature, 2,4-dinitrofluorobenzene (3.8 g) was added gradually and the dark red solution stirred overnight at room temperature. It was poured into excess water, the pale yellow solid filtered off, washed with water and dried. Recrystallization from dioxane ethanol gave short, light pink needles, m.p. 210° C. (4.2 g, 95%). I.R. (KBr): 1592, 1333, 834 (Ar-NO2)cm-1.

reactant | 2,4-hexadiyn-1,6-diol | 1.1 g | C(C#CC#CCO)O | C6H6O2
reactant | K2CO3 | 0.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dinitrofluorobenzene | 3.8 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | KBr | [K+].[Br-]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2,4-Hexadiyn-1,6-diol bis-(2,4-dinitrophenyl) ether | C(C#CC#CCO)O.[N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | InChI=1S/C12H6N4O9.C6H6O2/c17-13(18)7-1-3-11(9(5-7)15(21)22)25-12-4-2-8(14(19)20)6-10(12)16(23)24;7-5-3-1-2-4-6-8/h1-6H;7-8H,5-6H2
